US06770646B2
n-Butyl lithium (2.5M in hexanes, 22.5 ml) was added dropwise over 40 minutes with stirring to fresh ethyl propiolate (6.0 ml) in dry tetrahydrofuran (75 ml) under nitrogen, with the temperature being maintained below −68° by external cooling. After 30 minutes, isovaleraldehyde (6.5 ml) in dry tetrahydrofuran (15 ml) was added over 15 minutes with the temperature maintained below −69°. After one hour, trimethylsilyl chloride (10 ml) was added and the reaction was allowed to warm to room temperature. Water was added and the mixture was extracted with ethyl acetate, which was washed with brine, dried, and evaporated to give ethyl 4hydroxy-6-methyl-2-heptynoate as an oil (9.5 g).

reactant | n-Butyl lithium | 2.5M, 22.5 ml | C(CCC)[Li]
reactant | ethyl propiolate | 6.0 ml | C(C#C)(=O)OCC | C5H6O2
reactant | isovaleraldehyde | 6.5 ml | C(CC(C)C)=O | C5H10O
reactant | trimethylsilyl chloride | 10 ml | C[Si](C)(C)Cl | C3H9ClSi
solvent | tetrahydrofuran | 75 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
solvent | Water | O | H2O
product | ethyl 4hydroxy-6-methyl-2-heptynoate | 9.5 g | OC(C#CC(=O)OCC)CC(C)C | C10H16O3
